US07402585B2
Cyclobutane carbonyl chloride (5 ml, 43.8 mmol) was slowly added to a solution of ethyl glycinate (5.86 g, 42 mmol) in dichloromethane (100 ml) and triethylamine (14.6 ml, 105 mmol) at 0° C. The mixture was then stirred at ambient temperature for 14 hours. The reaction mixture was washed with 1.0 N hydrochloric acid and the organic phase separated, dried (magnesium sulphate) and evaporated in vacuo to yield a yellow solid. Recrystallisation from dichloromethane:petroleum ether, yielded ethyl N-(cyclobutylcarbonyl)glycinate as a white solid (7.78 g, 100% yield):

reactant | Cyclobutane carbonyl chloride | 43.8 mmol, 5 ml | C1(CCC1)C(=O)Cl | C5H7ClO
reactant | ethyl glycinate | 42 mmol, 5.86 g | NCC(=O)OCC | C4H9NO2
reactant | triethylamine | 105 mmol, 14.6 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | ethyl N-(cyclobutylcarbonyl)glycinate | 7.78 g, 100% yield | C1(CCC1)C(=O)NCC(=O)OCC | C9H15NO3
